US07208524B2
tert-Butyl N-[2-(2-hydroxy-4-isopropylphenyl)ethyl]-carbamate (0.234 g) and 0.116 g of potassium carbonate were suspended in 5 mL of N,N-dimethylformamide. To the stirred suspension was added dropwise 0.126 mL of ethyl 4-bromobutyrate at room temperature, and the mixture was stirred at room temperature for 16 hours. To the reaction mixture were added 10 mL of 1 mol/L hydrochloric acid and then 20 mL of water, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was purified by column chromatography on silica gel (eluent: ethyl acetate-hexane) to give 0.283 g of ethyl 4-[2-(2-tert-butoxycarbonylaminoethyl)-5-isopropylphenoxy]-butyrate.

reactant | tert-Butyl N-[2-(2-hydroxy-4-isopropylphenyl)ethyl]-carbamate | 0.234 g | OC1=C(C=CC(=C1)C(C)C)CCNC(OC(C)(C)C)=O | C16H25NO3
reactant | potassium carbonate | 0.116 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 4-bromobutyrate | 0.126 mL | BrCCCC(=O)OCC | C6H11BrO2
reactant | hydrochloric acid | 1 mol/L, 10 mL | Cl | ClH
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | ethyl 4-[2-(2-tert-butoxycarbonylaminoethyl)-5-isopropylphenoxy]-butyrate | 0.283 g | C(C)(C)(C)OC(=O)NCCC1=C(OCCCC(=O)OCC)C=C(C=C1)C(C)C | C22H35NO5
